US07511077B2
D. Synthesis of 6,6-bis-(4-fluoro-phenyl)-hexanoic acid (4-amino-but-2-ynyl)-amide
{4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-carbamic acid tert-butyl ester (1.6 g, 3.4 mmol) was dissolved in dry CH2Cl2 (50 ml) followed by addition of TFA (20 ml). The resulting solution was stirred at room temperature for 2 hrs. The solution was concentrated under reduced pressure. The resulting residue was dissolved in water (20 ml) and pH of the solution was adjusted to 10. The water phase was extracted with CH2Cl2 (100 ml), and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the desired product in almost quantitative yield.

reactant | {4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-carbamic acid tert-butyl ester | 3.4 mmol, 1.6 g | C(C)(C)(C)OC(NCC#CCNC(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)=O | C27H32F2N2O3
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 6,6-bis-(4-fluoro-phenyl)-hexanoic acid (4-amino-but-2-ynyl)-amide | quantitative yield | NCC#CCNC(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C22H24F2N2O
